US09422285B2
Methyl 4-[({7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridin-3-yl}carbonyl)amino]bicyclo[2.2.2]octane-1-carboxylate
A mixture of 80 mg 7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid (75% purity, 0.181 mmol) from Example 4A, 76 mg of HATU (0.199 mmol) and 94 μl (0.542 mmol) of N,N-diisopropylethylamine in 0.54 ml of DMF was stirred at RT for 10 min Subsequently, 40 mg (0.217 mmol) of methyl 4-aminobicyclo[2.2.2]octane-1-carboxylate were added and the mixture was stirred at RT overnight. The reaction mixture was admixed with water and acetonitrile and purified by means of preparative HPLC (RP18 column, eluent:acetonitrile/water gradient with addition of 0.05% formic acid). 62 mg of the target compound were obtained (70% of theory).

reactant | 7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.181 mmol, 80 mg | FC1=C(COC2=CC(=CC=3N2N=C(C3C(=O)O)C)C)C(=CC=C1)F | C17H14F2N2O3
reactant | HATU | 0.199 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.542 mmol, 94 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 4-aminobicyclo[2.2.2]octane-1-carboxylate | 0.217 mmol, 40 mg | NC12CCC(CC1)(CC2)C(=O)OC | C10H17NO2
solvent | DMF | 0.54 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | Methyl 4-[({7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridin-3-yl}carbonyl)amino]bicyclo[2.2.2]octane-1-carboxylate | 62 mg | FC1=C(COC2=CC(=CC=3N2N=C(C3C(=O)NC32CCC(CC3)(CC2)C(=O)OC)C)C)C(=CC=C1)F | C27H29F2N3O4
